US06693123B2
N-[4-(2-(4-Chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Methyl Ester
N-[4-iodo-2-(2-methylphenyl)benzoyl]methionine methyl ester (2.1 g, 4.34 mmol), 4-chloro-3-vinylpyridine (1.4 g, 10 mmol), and 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (complex with methylene chloride 1:1, 177 mg, 0.22 mmol) were combined in NMP (9 mL) and TEA (3 mL) and heated at 100° C. for 5 hours. The mixture was concentrated and purified by flash chromatography (50% EtOAc in hexanes) to give 1.0 g of the title compound. MS m/e 495 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ 1.61 (m, 2H), 1.90 (m, 2H), 2.15 (m, 6H), 3.69 (s, 3H), 4.65 (m, 1H), 5.95 (m, 1H), 7.3-7.5 (m, 9H), 7.69 (m, 1H), 8.05 (m, 1H), 8.45 (s, 1H).

reactant | N-[4-iodo-2-(2-methylphenyl)benzoyl]methionine methyl ester | 4.34 mmol, 2.1 g | COC([C@@H](NC(C1=C(C=C(C=C1)I)C1=C(C=CC=C1)C)=O)CCSC)=O | C20H22INO3S
reactant | 4-chloro-3-vinylpyridine | 10 mmol, 1.4 g | ClC1=C(C=NC=C1)C=C | C7H6ClN
solvent | NMP | 9 mL | CN1CCCC1=O | C5H9NO
product | N-[4-(2-(4-Chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Methyl Ester | 1.0 g | COC([C@@H](NC(C1=C(C=C(C=C1)C=CC=1C=NC=CC1Cl)C1=C(C=CC=C1)C)=O)CCSC)=O | C27H27ClN2O3S
